US08748434B2
b) 6-Chloro-4-phenyl-pyridazin-3-ylamine
The title compound was prepared in analogy to example 1, intermediate b, from 4-bromo-6-chloropyridazin-3-amine (CAS RN 446273-59-2) and phenylboronic acid (CAS RN 98-80-6). Light yellow solid (38%). MS (ESI+): m/z=206.048 ([M+H]+).

reactant | 4-bromo-6-chloropyridazin-3-amine | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 6-Chloro-4-phenyl-pyridazin-3-ylamine | ClC1=CC(=C(N=N1)N)C1=CC=CC=C1 | C10H8ClN3
